US09169212B2
To a solution of methyl 3-bromo-4-vinyloxy-benzoate (1.00 g, 3.89 mmol, 1.00 eq) in DCM (15.00 mL) was added ZnEt2 (960.91 mg, 7.78 mmol, 2.00 eq) at 0° C. under N2 protection. Then the mixture was stirred at 0° C. for 30 min, and ClCH2I (1.72 g, 9.73 mmol, 2.50 eq) was added. The formed mixture was stirred at 25° C. for 16 hrs. The mixture was poured into NH4Cl solution, and extracted with EA, the combined organic layer was dried over Na2SO4, concentrated, the residue was diluted in THF (5.00 mL) and H2O (5.00 mL), NaIO4 (832.00 mg, 3.89 mmol, 1.00 eq) and K2OsO4 (74.01 mg, 389.00 umol, 0.10 eq) was added, the mixture was stirred at 25° C. for 30 min, then the reaction was quenched by saturated Na2SO3, extracted with EA, the combined organic layer was dried over Na2SO4, concentrated, the residue was purified by silica gel chromatography (PE:EA=10:1) to afford product methyl 3-bromo-4-(cyclopropoxy)benzoate (530.00 mg, 1.95 mmol, 50.26% yield) as colorless oil. 1H NMR (400 MHz, CDCl3) δ 8.23 (d, J=2.01 Hz, 1H), 8.00 (dd, J=8.78, 2.01 Hz, 1H), 7.28-7.33 (m, 1H), 3.92 (s, 3H), 3.88 (t, J=4.39 Hz, 1H), 0.76-0.99 (m, 4H).

reactant | methyl 3-bromo-4-vinyloxy-benzoate | 3.89 mmol, 1.00 g, 1.00 eq | BrC=1C=C(C(=O)OC)C=CC1OC=C | C10H9BrO3
reactant | ZnEt2 | 7.78 mmol, 960.91 mg, 2.00 eq | [Zn](CC)CC
reactant | ClCH2I | 9.73 mmol, 1.72 g, 2.50 eq | ClCI | CH2ClI
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 15.00 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 5.00 mL | O | H2O
product | methyl 3-bromo-4-(cyclopropoxy)benzoate | 1.95 mmol, 530.00 mg, 50.26% yield | BrC=1C=C(C(=O)OC)C=CC1OC1CC1 | C11H11BrO3
